US05360800
4-(Chloromethyl)-1-(triphenylmethyl)-1H-imidazole
Thionyl chloride (0.82 g) was added over 1 min. to a stirred suspension of 1-(triphenylmethyl)-1H-imidazole-4-methanol (1.3 g) in a mixture of dichloromethane (50 ml) and DMF (1.0 ml) at 23°. The solution so obtained was stirred for 15 min. and extracted with 8% sodium bicarbonate solution (80 ml). The organic phase was washed with water (50 ml), dried and evaporated to give an oil which solidified. The solid was slurried in hexane and filtered to give the title compound (1.28 g), m.p. 139°-141°.

reactant | Thionyl chloride | 0.82 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(triphenylmethyl)-1H-imidazole-4-methanol | 1.3 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 4-(Chloromethyl)-1-(triphenylmethyl)-1H-imidazole | 1.28 g | ClCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
